US05665756
3-(1-(1H)-Imidazolyl)-1-(3-trifluoromethylphenyl)-1-propanone O-(2-aminoethyl)oxime dihydrochloride
A mixture of 3-(1-(1H)-imidazolyl)-1-(3-trifluoromethylphenyl)-1-propanone (4.60 g), O-(2-aminoethyl)hydroxylamine dihydrochloride (3.07 g), 3 equivalents of pyridine, and absolute ethanol (75 ml) was stirred under reflux, under nitrogen, for three hrs. The reaction mixture was diluted with 10% sodium hydroxide solution and ethyl acetate. The layers were separated. The aqueous phase was extracted with ethyl acetate, the organic layers were dried over anhydrous sodium sulfate, filtered, and the filtrate was evaporated. The residue was taken up in toluene and evaporated. The residue was flash chromatographed (180:19:1 dichloromethane/methanol/ammonium hydroxide). The appropriate fractions were collected and concentrated. The residue was dissolved in absolute ethanol and treated with ethereal hydrogen chloride. Diethyl ether was added to the solution. The solid was collected and recrystallized twice from absolute ethanol/ether to give 2.2 g (32%) of product, mp 223°-225° C. (dec.)

reactant | 3-(1-(1H)-imidazolyl)-1-(3-trifluoromethylphenyl)-1-propanone | 4.60 g | N1(C=NC=C1)CCC(=O)C1=CC(=CC=C1)C(F)(F)F | C13H11F3N2O
reactant | O-(2-aminoethyl)hydroxylamine dihydrochloride | 3.07 g | Cl.Cl.NCCON
reactant | pyridine | 3 equivalents | N1=CC=CC=C1 | C5H5N
reactant | ethanol | 75 ml | C(C)O | C2H6O
solvent | sodium hydroxide | [OH-].[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(1-(1H)-Imidazolyl)-1-(3-trifluoromethylphenyl)-1-propanone O-(2-aminoethyl)oxime dihydrochloride | 2.2 g, 32% | Cl.Cl.NCCON=C(CCN1C=NC=C1)C1=CC(=CC=C1)C(F)(F)F | InChI=1S/C15H17F3N4O.2ClH/c16-15(17,18)13-3-1-2-12(10-13)14(21-23-9-5-19)4-7-22-8-6-20-11-22;;/h1-3,6,8,10-11H,4-5,7,9,19H2;2*1H
